US20010018405A1
Example P-2: 2-(1,1-Dipropoxymethyleneamino)thiophene-3-carboxylic acid-propylamide
In a small destillation apparatus, a mixture of 1.0 g 2-aminothiophene-3-carboxylic acid propylamide and 2.0 g of tetrapropyl orthocarbonate is heated for 1 h at 130° C. and 2 h at 155° C. n-PrOH, which arises during the reaction is directly distilled out of the reaction flask. After cooling, the crude product is purified by column chromatography (eluant:hexane/AcOEt 1:2). Yield: 1.0 g of pure 2-(1,1 -dipropoxymethyleneamino)thiophene-3-carboxylic acid propylamide; m.p. 57-58° C.

reactant | 2-aminothiophene-3-carboxylic acid propylamide | 1.0 g | C(CC)NC(=O)C1=C(SC=C1)N | C8H12N2OS
reactant | tetrapropyl orthocarbonate | 2.0 g | C(OCCC)(OCCC)(OCCC)OCCC | C13H28O4
solvent | n-PrOH | C(CC)O | C3H8O
product | 2-(1,1-Dipropoxymethyleneamino)thiophene-3-carboxylic acid-propylamide | C(CC)NC(=O)C1=C(SC=C1)N=C(OCCC)OCCC | C15H24N2O3S
